US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1,1-dimethyl-3-pyridin-4-yl-butyl)-amide
The title compound was synthesized in analogy to Example 69, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g 10 mg, 0.043 mmol) and 1,1-dimethyl-3-pyridin-4-yl-butylamine (12 mg, 0.064 mmol) as starting materials and isolated (10 mg, 59.38%) as white solid; LC-MS (UV peak area, ESI) 99.2%, 395.2 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.043 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 1,1-dimethyl-3-pyridin-4-yl-butylamine | 0.064 mmol, 12 mg | CC(CC(C)C1=CC=NC=C1)(C)N | C11H18N2
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1,1-dimethyl-3-pyridin-4-yl-butyl)-amide | CC(CC(C)C1=CC=NC=C1)(C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C23H30N4O2
